US05128355
A solution of 37.70 g of 2-(4-methylphenoxy)-benzoic acid was 12.0 mL of concentrated sulfuric acid in 500 mL of methanol was refluxed for 14 hours. After cooling, the reaction mixture was concentrated in vacuo and the residue was added to a mixture of methylene chloride and water. The organic phase was separated, washed with saturated sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The crude product was kugelrohr distilled (120°-135°/0.025 torr) to furnish 35.08 g of methyl 2-(4-methylphenoxyl)benzoate, m.p. 31°-34°. NMR (200 MHz, CDCl3) δ 7.87 (d of d, 1H); 7.39 (t of d, 1H); 7.11 (m, 3H); 6.88 (m, 3H); 3.81 (s, 3H); 2.30 (s, 3H).

reactant | 2-(4-methylphenoxy)-benzoic acid | 37.70 g | CC1=CC=C(OC2=C(C(=O)O)C=CC=C2)C=C1 | C14H12O3
reactant | sulfuric acid | 12.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 500 mL | CO | CH4O
product | methyl 2-(4-methylphenoxyl)benzoate | 35.08 g | CC1=CC=C(OC2=C(C(=O)OC)C=CC=C2)C=C1 | C15H14O3
